US04788210
starting from 3-(o-chlorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole and ethyl bromide there is obtained a mixture of isomeric N-ethyltriazoles and therefrom there are obtained pure 1-ethyl-5-(o-chlorophenyl)-3-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole as a resinous product, 1H-NMR(CDCl3): 1.47 (t, CH2CH3), 4.10 (q, CH2CH3); and pure 1-ethyl-3-(o-chlorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, likewise as a resinous product, 1H-NMR(CDCl3): 1.45 (t, CH2CH3), 4.04 (q, CH2CH3);

reactant | 3-(o-chlorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | ClC1=C(C=CC=C1)C1=NNC(=N1)C1=C(C=CC=C1)C(F)(F)F | C15H9ClF3N3
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 1-ethyl-5-(o-chlorophenyl)-3-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | C(C)N1N=C(N=C1C1=C(C=CC=C1)Cl)C1=C(C=CC=C1)C(F)(F)F | C17H13ClF3N3
